US09381196B2
To a solution of methyl 8-(4-bromo-2-nitrophenylamino)-8-oxooctanoate (241 mg, 0.623 mmol) in EtOH was added SnCl2.H2O (490 mg, 2.37 mmol). The reaction was heated to reflux overnight and quenched by water. The mixture was filtered and the filtrate was extracted with ethyl acetate. The combined organic layer was dried, concentrated and purified by biotage column chromatography to afford methyl 8-(2-amino-4-bromophenylamino)-8-oxooctanoate (149 mg)

reactant | methyl 8-(4-bromo-2-nitrophenylamino)-8-oxooctanoate | 0.623 mmol, 241 mg | BrC1=CC(=C(C=C1)NC(CCCCCCC(=O)OC)=O)[N+](=O)[O-] | C15H19BrN2O5
reactant | SnCl2.H2O | 2.37 mmol, 490 mg | Cl[Sn]Cl.O
solvent | EtOH | CCO | C2H6O
product | methyl 8-(2-amino-4-bromophenylamino)-8-oxooctanoate | 149 mg | NC1=C(C=CC(=C1)Br)NC(CCCCCCC(=O)OC)=O | C15H21BrN2O3
